US04200628
To a solution of 2.27 g (8.96 mmoles) of 1-diphenylmethyl-3-hydroxymethylazetidine in 30 ml of dimethylsulfoxide are added 586 mg (0.67 equivalent) of phosphoric acid and 4.25 g (2.3 equivalents) of dicyclohexylcarbodiimide, and the mixture is stirred at room temperature overnight. The insoluble materials are filtered off, and the filtrate is alkalified with an aqueous sodium carbonate solution and extracted with ethyl acetate. The extract is reextracted three times with 14.9% aqueous sodium hydrogensulfite solution. The extract is alkalified with 10% aqueous sodium hydroxide solution and extracted with methylene chloride. The extract is dried and evaporated to yield 1.281 g of crude light yellow syrupy 1-diphenylmethyl-3-formylazetidine in 56.9% yield.

reactant | 1-diphenylmethyl-3-hydroxymethylazetidine | 8.96 mmoles, 2.27 g | C1(=CC=CC=C1)C(N1CC(C1)CO)C1=CC=CC=C1 | C17H19NO
reactant | phosphoric acid | 586 mg, 0.67 equivalent | P(O)(O)(O)=O | H3O4P
reactant | dicyclohexylcarbodiimide | 4.25 g, 2.3 equivalents | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-diphenylmethyl-3-formylazetidine | 1.281 g, 56.9% yield | C1(=CC=CC=C1)C(N1CC(C1)C=O)C1=CC=CC=C1 | C17H17NO
